US08053438B2
STEP 2: 2-FLUORO-3-(4-FLUOROTETRAHYDRO-2H-PYRAN-4-YL)PYRAZINE
A solution of 4-(3-fluoropyrazin-2-yl)tetrahydro-2H-pyran-4-ol (0.4 g, 2.018 mmol) in CH2Cl2 (6.73 mL) was cooled to 0° C. DAST (0.533 mL, 4.04 mmol) was added to the reaction mixture dropwise and the resulting mixture was allowed to stir at 0° C. for 2 hr. A solution of saturated sodium carbonate was added dropwise to the reaction mixture at 0° C. to quench the reaction. The heterogeneous mixture was stirred vigorously for 1 hr to ensure complete quenching. Mixture was transferred to a separatory funnel and the layers were separated after addition of more DCM and saturated bicarbonate solution. The organic layer was dried over magnesium sulfate and rotovapped to remove the volatile solvent.

reactant | 4-(3-fluoropyrazin-2-yl)tetrahydro-2H-pyran-4-ol | 2.018 mmol, 0.4 g | FC=1C(=NC=CN1)C1(CCOCC1)O | C9H11FN2O2
reactant | DAST | 4.04 mmol, 0.533 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | CH2Cl2 | 6.73 mL | C(Cl)Cl | CH2Cl2
product | 2-FLUORO-3-(4-FLUOROTETRAHYDRO-2H-PYRAN-4-YL)PYRAZINE | FC1=NC=CN=C1C1(CCOCC1)F | C9H10F2N2O
